US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline hydrochloride salt
Utilizing a procedure analogous to that described in Example 1 (with conversion to the HCl salt as outlined for Example 2), this product was prepared in 82% yield from 6-chloro-indoline (1.1 eq.), and 4-chloro-7-methoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. of free-base: 140°-141° C.; For HCl salt: M.P. 232°-233° C.; LC-MS: 312 (MH+); anal. RP18-HPLC RT: 5.68 min.).

reactant | HCl | Cl | ClH
reactant | 6-chloro-indoline | 1.1 eq. | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4-chloro-7-methoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline hydrochloride salt | 82% yield | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)OC | InChI=1S/C17H14ClN3O.ClH/c1-22-13-4-5-14-15(9-13)19-10-20-17(14)21-7-6-11-2-3-12(18)8-16(11)21;/h2-5,8-10H,6-7H2,1H3;1H
